US09284331B2
Step 2: 9-cyclopropyl-10-fluoro-2-(4-(methoxymethyl)-1H -imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 96-2. 9-bromo-10-fluoro-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (1.5 g, 3.58 mmol) was dissolved in toluene (36 mL) and S-Phos (0.47 g, 1.14 mmol), cyclopropylboronic acid (0.615 g, 7.16 mmol) and K3PO4 (1.59 g, 7.51 mmol) were added. The suspension was degassed, Pd(OAc)2 (0.16 g, 0.72 mmol) was added under Argon and the mixture was heated at 100° C. for 1.5 h. The mixture was allowed to warm to RT and filtered through a pad of celite. The residue was diluted with DCM and extracted with water, saturated aqueous NaHCO3 solution and brine. The combined organic layers were dried with sodium sulfate, filtered and the solvent was removed under reduced pressure. The crude product was purified by flash-column chromatography over silicagel (Biotage Isolera Four, eluent: 50% AcOEt in DCM for 5 min, then from 50% AcOEt in DCM to 100% AcOEt in DCM in 40 min, followed by 100% AcOEt in DCM for 10 min)) to yield a foam. A second flash-column chromatography over silicagel was done (Biotage Isolera Four, eluent: 0.5% MeOH in DCM for 4 min, then from 0.5% MeOH in DCM to 4% MeOH in DCM in 60 min, 4% MeOH in DCM for 20) to yield the title compound as a yellow solid. The residue was dissolved in DCM and MP-TMT resin (0.71 mmol/g) was added and the mixture was stirred for 2.5 h. The resin was filtered off and the solvent was removed under reduced pressure to yield a yellow foam. The foam was crystallized from hot n-butanol to afford the title compound as white crystals (683 mg). UPLC-MS: MS 381.3 (M+H+); UPLC rt 3.53 min (10 min method). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.55-0.64 (m, 2 H), 0.94-1.04 (m, 2 H), 1.67-1.78 (m, 1 H), 3.08 (t, J=5.99 Hz, 2 H), 3.23 (s, 3 H), 3.77-3.88 (m, 2 H), 4.22 (br. s., 2 H), 4.27 (s, 2 H), 7.10-7.20 (m, 2 H), 7.63 (s, 1 H), 7.98 (dd, J=8.93, 5.01 Hz, 1 H), 8.20 (d, J=1.47 Hz, 1 H).

reactant | 9-bromo-10-fluoro-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 3.58 mmol, 1.5 g | BrC1=C2CCN3C(C2=CC=C1F)=CC(=NCC3=O)N3C=NC(=C3)COC | C18H16BrFN4O2
reactant | S-Phos | 1.14 mmol, 0.47 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | cyclopropylboronic acid | 7.16 mmol, 0.615 g | C1(CC1)B(O)O | C3H7BO2
reactant | K3PO4 | 7.51 mmol, 1.59 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 36 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.72 mmol, 0.16 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | MeOH | CO | CH4O
product | 9-cyclopropyl-10-fluoro-2-(4-(methoxymethyl)-1H -imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | C1(CC1)C1=C2CCN3C(C2=CC=C1F)=CC(=NCC3=O)N3C=NC(=C3)COC | C21H21FN4O2
